US09278915B2
Intermediate 27: (1R,2R)-2-(4-Nitrophenyl)cyclopropanecarboxylic acid
To a 1000 mL RB flask fitted with magnetic stirrer was charged with 150 mL of HNO3, cooled to 0° C., was added (1R,2R)-2-phenylcyclopropanecarboxylic acid (15 g, 92.593 mmol) portion wise for half an hour, RM brought to RT and stirred for 3 h. After the completion of reaction, RM was poured into ice cold water, stirred for 30 min and filtered off the product and dried under vacuum. The obtained product was white color solid (15 g, yield: 78.2%).

reactant | (1R,2R)-2-phenylcyclopropanecarboxylic acid | 92.593 mmol, 15 g | C1(=CC=CC=C1)[C@H]1[C@@H](C1)C(=O)O | C10H10O2
reactant | HNO3 | 150 mL | [N+](=O)(O)[O-] | HNO3
product | (1R,2R)-2-(4-Nitrophenyl)cyclopropanecarboxylic acid | 15 g, yield: 78.2% | [N+](=O)([O-])C1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)O | C10H9NO4
